US05804532
Isoamyl nitrite (150 ml) was added to a stirred mixture of 4-(N,N-dimethylaminosulphonyl)-2-trifluoromethylbenzamide (15.1 g) in acetic acid and concentrated sulphuric acid while maintaining the temperature at 70°-80° C. It was cooled, poured into water and extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered to give 4-(N,N-dimethylaminosulphonyl)-2-trifluoromethylbenzoic acid (11.2 g) as a white solid, m.p. 188.9°-189.4° C.

reactant | Isoamyl nitrite | 150 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-(N,N-dimethylaminosulphonyl)-2-trifluoromethylbenzamide | 15.1 g | CN(S(=O)(=O)C1=CC(=C(C(=O)N)C=C1)C(F)(F)F)C | C10H11F3N2O3S
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-(N,N-dimethylaminosulphonyl)-2-trifluoromethylbenzoic acid | 11.2 g | CN(S(=O)(=O)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C | C10H10F3NO4S
